US08710043B2
Step 1. (E)-N-(4-Iodobenzylidene)-2-methylpropane-2-sulfinamide
To a solution of 4-(iodo)benzaldehyde (2.00 g, 8.62 mmol) (BioNet Research) in DCM (20 mL) was added 2-methylpropane-2-sulfinamide (2.09 g, 17.2 mmol) (AK Scientific) and copper (II) sulfate (2.75 g, 17.2 mmol) (Fluka). The suspension was stirred at rt under N2 for 17 h. The suspension was then filtered through Celite® brand filter agent, and the solids were washed with DCM (2×20 mL). The filtrates were concentrated and purified by ISCO (80 g, SiO2, 0-100% EtOAc/hexanes) to give the title compound as a yellow solid.

reactant | 4-(iodo)benzaldehyde | 8.62 mmol, 2.00 g | IC1=CC=C(C=O)C=C1 | C7H5IO
reactant | 2-methylpropane-2-sulfinamide | 17.2 mmol, 2.09 g | CC(C)(C)S(=O)N | C4H11NOS
solvent | DCM | 20 mL | C(Cl)Cl | CH2Cl2
catalyst | copper (II) sulfate | 17.2 mmol, 2.75 g | S(=O)(=O)([O-])[O-].[Cu+2]
product | (E)-N-(4-Iodobenzylidene)-2-methylpropane-2-sulfinamide | IC1=CC=C(\C=N\S(=O)C(C)(C)C)C=C1 | C11H14INOS
